US07135466B2
[2-(2,4-Dichlorophenoxy)ethyl]{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl} sulfoxide
Nitric acid (0.5 ml) was added to 4-(4-{[2-(2,4-dichlorophenoxy)ethyl]sulfanyl}phenoxy)-6,7-dimethoxyquinoline (20 mg), and the mixture was stirred at 0° C. for one hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform, followed by washing with saturated brine. The extract was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography using chloroform/methanol for development to give the title compound (19 mg, yield 92%).

reactant | Nitric acid | 0.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-(4-{[2-(2,4-dichlorophenoxy)ethyl]sulfanyl}phenoxy)-6,7-dimethoxyquinoline | 20 mg | ClC1=C(OCCSC2=CC=C(OC3=CC=NC4=CC(=C(C=C34)OC)OC)C=C2)C=CC(=C1)Cl | C25H21Cl2NO4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | [2-(2,4-Dichlorophenoxy)ethyl]{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl} sulfoxide | 19 mg, yield 92% | ClC1=C(OCCS(=O)C2=CC=C(C=C2)OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)Cl | C25H21Cl2NO5S
